US09290490B2
To a solution of lithium diisopropyl amide (1.8 M in tetrahydrofuran/heptane/ethylbenzene, 46.2 mL, 83 mmol) at −78° C. was added a solution of 4-(methoxycarbonyl)-cyclohexanecarboxylic acid (6.2 g, 33.3 mmol) in tetrahydrofuran (80 mL) over 15 minutes via cannula needle. After 40 minutes of stirring, iodomethane (3.12 mL, 49.9 mmol) was added over 30 seconds to the brown reaction mixture. After 45 minutes the reaction bath was allowed to warm to room temperature over four hours, then the reaction mixture was cooled to 0° C. before hydrochloric acid (2.0 M in water, 100 mL) was added. The reaction mixture was diluted with hexanes (50 mL) and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (3×50 mL), dried over sodium sulfate, filtered, and concentrated to give 4-(methoxycarbonyl)-4-methylcyclohexanecarboxylic acid, which was used without further purification.

reactant | lithium diisopropyl amide | 83 mmol, 1.8 M, 46.2 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-(methoxycarbonyl)-cyclohexanecarboxylic acid | 33.3 mmol, 6.2 g | COC(=O)C1CCC(CC1)C(=O)O | C9H14O4
reactant | iodomethane | 49.9 mmol, 3.12 mL | IC | CH3I
reactant | hydrochloric acid | 2.0 M, 100 mL | Cl | ClH
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 4-(methoxycarbonyl)-4-methylcyclohexanecarboxylic acid | COC(=O)C1(CCC(CC1)C(=O)O)C | C10H16O4
